US04327026
A solution of 1 g (2.95 mmol) of 1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-7-[1-(hydroxyimino)ethyl]-2H-1,4-benzodiazepin-2-one in 150 ml of ethanol is stirred with 1.0 g of Raney-nickel paste for 21 hours in a hydrogen atmosphere at 50°. After filtration over Digalite and evaporation in vacuo, there is obtained 7-(1-aminoethyl)-1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one of melting point 53°-55°.

reactant | 1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-7-[1-(hydroxyimino)ethyl]-2H-1,4-benzodiazepin-2-one | 2.95 mmol, 1 g | C(C)N1C(CN=C(C2=C1C=CC(=C2)C(C)=NO)C2=C(C=CC=C2)F)=O | C19H18FN3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 1.0 g | [Ni] | Ni
product | 7-(1-aminoethyl)-1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | NC(C)C=1C=CC2=C(C(=NCC(N2CC)=O)C2=C(C=CC=C2)F)C1 | C19H20FN3O
